US04933355
5-[1-(2-Aminothiazol-4-yl)-1-ethoxycarbonylmethylene]rhodanine-3-acetic acid monohydrate
The desired compound was prepared by reacting at room temperature, for 15 minutes, 20 g of ethyl 2-aminothiazol-4-ylglyoxylate, 22.9 g of rhodanine-3-acetic acid, 11 g of ammonium chloride, 15 ml of 28% v/v aqueous ammonia and 200 ml of ethanol, following a procedure similar to that described in Example 1. The resulting orange product had the following physical properties.

reactant | ethyl 2-aminothiazol-4-ylglyoxylate | 20 g | NC=1SC=C(N1)C(C(=O)OCC)=O | C7H8N2O3S
reactant | rhodanine-3-acetic acid | 22.9 g | S1C(=S)N(C(=O)C1)CC(=O)O | C5H5NO3S2
reactant | ammonium chloride | 11 g | [Cl-].[NH4+]
reactant | ammonia | N | H3N
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 5-[1-(2-Aminothiazol-4-yl)-1-ethoxycarbonylmethylene]rhodanine-3-acetic acid monohydrate | O.NC=1SC=C(N1)C(C(=O)OCC)=C1C(N(C(S1)=S)CC(=O)O)=O | InChI=1S/C12H11N3O5S3.H2O/c1-2-20-10(19)7(5-4-22-11(13)14-5)8-9(18)15(3-6(16)17)12(21)23-8;/h4H,2-3H2,1H3,(H2,13,14)(H,16,17);1H2
